US05977103
To a suspension of p-toluenesulfinic acid sodium salt (30 g) in H2O (100 mL) was added methyl t-butyl ether (50 mL) followed by dropwise addition of conc HCI (15 mL). After stirring 5 min, the organic phase was removed and the aqueous phase was extracted with methyl t-butyl ether. The organic phase was dried (Na2SO4) and concentrated to near dryness. Hexane was added and the resulting precipitate collected to afford p-toluenesulfinic acid; yield 22 g. p-Toluenesulfinic acid (22 g, 140.6 mmol), p-fluorobenzaldehyde (22 mL, 206 mmol), formamide (20 mL, 503 mmol) and camphor sulphonic acid (4 g, 17.3 mmol) were combined and stirred at 60° C. 18 h. The resulting solid was broken up and stirred with a mixture of MeOH (35 mL) and hexane (82 mL) then filtered. The solid was resuspended in MeOH/hexanes (1:3, 200 mL) and stirred vigorously to break up the remaining chunks. Filtration afforded the title compound (27 g, 62% yield): 1H NMR (400 MHz, CDCl3) d 8.13 (s, 1H), 7.71 (d, 2H), 7.43 (dd, 2H), 7.32 (d, 2H), 7.08 (t, 2H), 6.34 (d, 1H), 2.45 (s, 3H).

reactant | p-toluenesulfinic acid sodium salt | 30 g | [Na+].C1(=CC=C(C=C1)S(=O)[O-])C
reactant | methyl t-butyl ether | 50 mL | C(C)(C)(C)OC | C5H12O
solvent | H2O | 100 mL | O | H2O
product | p-toluenesulfinic acid | C1(=CC=C(C=C1)S(=O)O)C | C7H8O2S
